US08003649B2
Preparation of benzyl 4-hydroxy-4-(4-methylpyridin-2-yl)piperidine-1-carboxylate
Obtained in 56% yield by an analogous method to Example 321, preparation of starting materials, starting from benzyl 4-oxo-1-piperidinecarboxylate and 2-bromo-4-methylpyridine.

reactant | benzyl 4-oxo-1-piperidinecarboxylate | O=C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO3
reactant | 2-bromo-4-methylpyridine | BrC1=NC=CC(=C1)C | C6H6BrN
product | benzyl 4-hydroxy-4-(4-methylpyridin-2-yl)piperidine-1-carboxylate | 56% yield | OC1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C1=NC=CC(=C1)C | C19H22N2O3
